US05356886
A mixture of (E)-9-[4-(Diisopropoxyphosphoryl)but-3-enyloxy]-6-phthalimidopurine (186 mg, 370 μmol) and methylhydrazine (18 mg, 390 μmol) in ethanol (4 ml) was stirred at room temperature for 1.5 hr. The solvent was removed and the residue purified by column chromatography on silica gel eluting with dichloromethane-methanol (4:1) to afford (E)-9-[4-(diisopropoxyphosphoryl)but-3-enyloxy]-adenine as a gum (120 mg, 88%); λmax (EtOH) 260 (12,860)nm; υmax (film) 3310, 3170, 2970, 1640, 1590, 1290, 1230 and 980 cm-1 ; δH [(CD3)2SO] 1.26 (12H, pseudo t, J 6 Hz, CH(CH3)2), 2.67 (2H, m, CH2), 4.50 (4H, m, CH2O and CH(CH3)2), 6.05 (1H, dd, J 17 Hz and 22 Hz, PCH=CH), 6.70 (1H, ddt, J 6 Hz, 17 Hz and 22 Hz, PCH=CH), 7.38 (2H, br.s, NH2), 8.14 (1H, s, H-2/H-8), 8.36 (1H, s, H-2/H-8) (Found: M+ 369.1568. C15H24N5O4P requires M+ 369 1566).

reactant | (E)-9-[4-(Diisopropoxyphosphoryl)but-3-enyloxy]-6-phthalimidopurine | 370 μmol, 186 mg | C(C)(C)OP(=O)(OC(C)C)/C=C/CCON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C23H26N5O6P
reactant | methylhydrazine | 390 μmol, 18 mg | CNN | CH6N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | (E)-9-[4-(diisopropoxyphosphoryl)but-3-enyloxy]-adenine | 120 mg, 88% | C(C)(C)OP(=O)(OC(C)C)/C=C/CCON1C2=NC=NC(=C2N=C1)N | C15H24N5O4P
